US07390808B2
Step B: 3-Chloro-5-phenyl-pyridazine-4-carbonitrile
3-Oxo-5-phenyl-2,3-dihydro-pyridazine-4-carbonitrile (70 mg) was suspended in 1 mL phosphorous oxychloride and heated to 100° C. for 6 hours. The mixture was then cooled and poured onto ice. The resulting brown solid product was filtered and air dried and used in the next step without further purification.

reactant | 3-Oxo-5-phenyl-2,3-dihydro-pyridazine-4-carbonitrile | 70 mg | O=C1NN=CC(=C1C#N)C1=CC=CC=C1 | C11H7N3O
reactant | phosphorous oxychloride | 1 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-Chloro-5-phenyl-pyridazine-4-carbonitrile | ClC=1N=NC=C(C1C#N)C1=CC=CC=C1 | C11H6ClN3
